### PR TITLE
[Merged by Bors] - feat: Add Function.Injective.addTorsor Function.Injective.normedAddTo…

### PR DESCRIPTION
**Pull request by jstoobysmith**
Adds 
- `Function.Injective.addTorsor`
- `Function.Injective.normedAddTorsor`

pulling back the proofs for `AddTorsor` and `NormedAddTorsor` along an injection. 

Related to this conversation on the Lean zulip: 
https://leanprover.zulipchat.com/#narrow/channel/479953-PhysLean/topic/Space.20vs.20EuclideanSpace/with/575938877

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 1]
```diff
@@ -227,3 +227,15 @@ lemma pointReflection_eq_subLeft {G : Type*} [AddCommGroup G] (x : G) :
   ext; simp [pointReflection, sub_add_eq_add_sub, two_nsmul]
 
 end Equiv
+
+/-- Pullback of an add torsor along an injective map. -/
+abbrev Function.Injective.addTorsor
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]: Could you add the surjective version too?

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 2]
```diff
@@ -227,3 +227,15 @@ lemma pointReflection_eq_subLeft {G : Type*} [AddCommGroup G] (x : G) :
...
+    {M : Type*} {α : Type*} {β : Type*}
+    [AddGroup M] [AddTorsor M α] [VAdd M β] [VSub M β] [Nonempty β] (f : β → α)
+    (hf : Function.Injective f)
+    (vadd : ∀ (c : M) (x : β), f (c +ᵥ x) = c +ᵥ f x)
+    (vsub : ∀ (x y : β), x -ᵥ y = f x -ᵥ f y) : AddTorsor M β where
+  add_vadd x y c := hf <| by simp only [vadd, add_vadd]
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]: You should be able to reuse `hf.addAction` to get all but the vsub proofs

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean [hunk 3]
```diff
@@ -229,3 +229,15 @@ theorem uniformContinuous_vsub : UniformContinuous fun x : P × P => x.1 -ᵥ x.
...
   continuous_vadd := uniformContinuous_vadd.continuous
   continuous_vsub := uniformContinuous_vsub.continuous
+
+/-- Pullback of a normed add torsor along an injective map. -/
+abbrev Function.Injective.normedAddTorsor {Q : Type*} [VAdd V Q] [VSub V Q]
+    [Nonempty Q] [PseudoMetricSpace Q] (f : Q → P) (hf : Function.Injective f)
+    (vadd : ∀ (c : V) (x : Q), f (c +ᵥ x) = c +ᵥ f x)
+    (vsub : ∀ (x y : Q), x -ᵥ y = f x -ᵥ f y)
+    (norm : ∀ (x y : Q), dist x y = dist (f x) (f y)) : NormedAddTorsor V Q where
+  add_vadd x y c := hf <| by simp only [vadd, add_vadd]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/AddTorsor.lean]: Here you should use `hf.addTorsor`

File: Mathlib/Algebra/AddTorsor/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: Yep -added.

File: Mathlib/Algebra/AddTorsor/Basic.lean (hunk 2 above)
Comment (jstoobysmith) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: Fixed.

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean (hunk 3 above)
Comment (jstoobysmith) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: Fixed.

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 4]
```diff
@@ -227,3 +227,27 @@ lemma pointReflection_eq_subLeft {G : Type*} [AddCommGroup G] (x : G) :
...
 end Equiv
+
+/-- Pullback of an add torsor along an injective map. -/
+abbrev Function.Injective.addTorsor
+    {M : Type*} {α : Type*} {β : Type*}
+    [AddGroup M] [AddTorsor M α] [VAdd M β] [VSub M β] [Nonempty β] (f : β → α)
+    (hf : Function.Injective f)
+    (vadd : ∀ (c : M) (x : β), f (c +ᵥ x) = c +ᵥ f x)
+    (vsub : ∀ (x y : β), x -ᵥ y = f x -ᵥ f y) : AddTorsor M β where
+  add_vadd := (hf.addAction f vadd).add_vadd
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]:
```suggestion
  __ := hf.addAction f vadd
```
should work here and elsewhere

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 5]
```diff
@@ -227,3 +227,27 @@ lemma pointReflection_eq_subLeft {G : Type*} [AddCommGroup G] (x : G) :
...
+  zero_vadd := (hf.addAction f vadd).zero_vadd
+  vsub_vadd' x y := hf <| by simp only [vsub, vadd, vsub_vadd]
+  vadd_vsub' c x := by simp [vsub, vadd]
+
+/-- Pushforward of an add torsor along a surjective map. -/
+abbrev Function.Surjective.addTorsor
+    {M : Type*} {α : Type*} {β : Type*}
+    [AddGroup M] [AddTorsor M α] [VAdd M β] [VSub M β] [Nonempty β]
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]: Do you need nonemptiness? I think you can get it from hf.nonempty

Comment (jstoobysmith) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: You can't use hf.nonempty because that gives non-emptness of `α`, but you can prove this, so I have included this.

File: Mathlib/Algebra/AddTorsor/Basic.lean (hunk 4 above)
Comment (jstoobysmith) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: Nice, didn't know you could do this, so thank you.

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 6]
```diff
@@ -227,3 +227,26 @@ lemma pointReflection_eq_subLeft {G : Type*} [AddCommGroup G] (x : G) :
...
+
+/-- Pushforward of an add torsor along a surjective map. -/
+abbrev Function.Surjective.addTorsor
+    {M : Type*} {α : Type*} {β : Type*}
+    [AddGroup M] [AddTorsor M α] [VAdd M β] [VSub M β]
+    (f : α → β) (hf : Surjective f)
+    (vadd : ∀ (c : M) (x : α), f (c +ᵥ x) = c +ᵥ f x)
+    (vsub : ∀ (x y : α), x -ᵥ y = f x -ᵥ f y) : AddTorsor M β where
+  __ := hf.addAction f vadd
+  nonempty := ⟨f (Classical.choice (α := α) AddTorsor.nonempty)⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]:
```suggestion
  nonempty := AddTorsor.nonempty.map f
```
or similar

Comment (jstoobysmith) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: Fixed - thanks.

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 7]
```diff
@@ -227,3 +227,26 @@ lemma pointReflection_eq_subLeft {G : Type*} [AddCommGroup G] (x : G) :
   ext; simp [pointReflection, sub_add_eq_add_sub, two_nsmul]
 
 end Equiv
+
+/-- Pullback of an add torsor along an injective map. -/
+abbrev Function.Injective.addTorsor
+    {M : Type*} {α : Type*} {β : Type*}
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]: nit: the rest of the file seems to prefer
```suggestion
    {G P Q : Type*}
```
as the variable names

(the normed file looks good already)

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Algebra/AddTorsor/Basic.lean (hunk 7 above)
Comment (jstoobysmith) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: Fixed this
